*****************************************************************
.SUBCKT BBY53 1 2 3
D1 1 3 D353
D2 2 3 D353
.MODEL D353 D(IS=200E-18 N=1.021 RS=0.4883 XTI=3 EG=1.11 CJO=9.2E-12
+ M=0.74 VJ=0.8 FC=.5 BV=6 IBV=1E-6 TT=120E-9)
.ENDS

* hyperabrupt Diode, M=f(VR)! C-curve approximated between VR=1..3V
* 9.1.96 SIEMENS PD1 Moschovis